US04409017
A mixture of 4-[N-(7-fluoro-1-hydroxyisoquinolin-3-yl)-N-methylamino]phenol (2.08 g) and phosphorus oxychloride was heated under reflux for approximately 10 minutes at which stage a clear solution had been obtained. The mixture was cooled and poured into ice-water. The precipitated solid was collected and purified by column chromatography over silica gel (eluant dichloromethane/ethyl acetate; 90:10) to give 4-[N-(1-chloro-7-fluoroisoquinolin-3-yl)-N-methylamino]phenol (2.00 g) as a yellow crystalline solid mp 130° C.

reactant | 4-[N-(7-fluoro-1-hydroxyisoquinolin-3-yl)-N-methylamino]phenol | 2.08 g | FC1=CC=C2C=C(N=C(C2=C1)O)N(C)C1=CC=C(C=C1)O | C16H13FN2O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-[N-(1-chloro-7-fluoroisoquinolin-3-yl)-N-methylamino]phenol | 2.00 g | ClC1=NC(=CC2=CC=C(C=C12)F)N(C)C1=CC=C(C=C1)O | C16H12ClFN2O
